US20010027196A1
6-Amino-2-furan-2-yl-4-[(pyridin-2-yl-methyl)-amino]-nicotinonitrile
From trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester and 2-picolylamine in DME. ES-MS m/e (%): 292 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
reactant | 2-picolylamine | N1=C(C=CC=C1)CN | C6H8N2
solvent | DME | COCCOC | C4H10O2
product | 6-Amino-2-furan-2-yl-4-[(pyridin-2-yl-methyl)-amino]-nicotinonitrile | NC1=NC(=C(C#N)C(=C1)NCC1=NC=CC=C1)C=1OC=CC1 | C16H13N5O
